US05449676
8. 3-Amino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine 2-oxide
20.0 g (74.8 mmol) of 3-amino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine are dissolved in 100 ml of glacial acetic acid and, while stirring, 30.6 ml (300 mmol) of 30% strength hydrogen peroxide are added, and the mixture is stirred at 80° C. for 2.5 h. The reaction solution is diluted with 1 kg of ice and 200 ml of concentrated ammonia solution, and the precipitate which has formed is collected on a suction funnel, washed first with water and then with ethanol and petroleum ether (b.p. 40°-70° C.) and dried at 75° C. in vacuo. 18.1 g (85.4%) of the title compound of m.p. 214° C. are obtained.

reactant | 3-amino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine | 74.8 mmol, 20.0 g | NC=1N=NC(=CC1)C1=CC(=C(C=C1)OC(F)F)OC | C12H11F2N3O2
reactant | hydrogen peroxide | OO | H2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | ammonia | 200 ml | N | H3N
product | 3-Amino-6-(4-difluoromethoxy-3-methoxyphenyl)pyridazine 2-oxide | 18.1 g, 85.4% | NC=1[N+](=NC(=CC1)C1=CC(=C(C=C1)OC(F)F)OC)[O-] | C12H11F2N3O3
